US07491737B2
Step E: 3-Oxo-1-isopropylcyclopentanecarboxylic acid
A solution of methyl 3-oxo-1-isopropylcyclopentanecarboxylate (27 g, 146.6 mmol) in dioxane (300 mL) and conc HCl (100 mL) was heated to reflux overnight. The crude product was extracted into diethyl ether (4×200 mL) and the combined organic extracts were washed with an aqueous solution of sodium hydroxide (5N, 2×150 mL). The combined aqueous extracts were cooled to 0° C. and acidified with conc HCl. The product was extracted with ether (3×200 mL), dried with magnesium sulfate and the solvent was evaporated in vacuo. The weight of the product was 20 g (98%). 1H NMR (500 MHz, CDCl3): 2.81 (d, J=8.54 Hz, 1H), 2.48 (m, 1H), 2.32 (m, 2H), 2.15 (d, J=18.53 Hz, 1H), 2.08 (m, 1H), 1.95 (m, 1H), 1.03 (d, J=6.86 Hz, 3H), 0.96 (d, J=6.87 Hz, 1H).

reactant | methyl 3-oxo-1-isopropylcyclopentanecarboxylate | 146.6 mmol, 27 g | O=C1CC(CC1)(C(=O)OC)C(C)C | C10H16O3
solvent | dioxane | 300 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 100 mL | Cl | ClH
product | 3-Oxo-1-isopropylcyclopentanecarboxylic acid | O=C1CC(CC1)(C(=O)O)C(C)C | C9H14O3
